US07790723B2
1 ml of pyridine is added to a solution of 1.1 g of 3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine in 20 ml of DCM, and 1.2 g of 4-methyl-2-pyridin-3-ylthiazole-5-carbonyl chloride, hydrochloride (“BA”) are subsequently added, and the mixture is stirred at room temperature for a further 16 hours. Conventional work-up gives 1.7 g of 1-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazin-1-yl]-1-(4-methyl-2-pyridin-3-ylthiazol-5-yl)methanone.

reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine | 1.1 g | C(C)OC=1C=C(C=CC1OC)C1=NNCCC1 | C13H18N2O2
reactant | 4-methyl-2-pyridin-3-ylthiazole-5-carbonyl chloride, hydrochloride | 1.2 g | Cl.CC=1N=C(SC1C(=O)Cl)C=1C=NC=CC1
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazin-1-yl]-1-(4-methyl-2-pyridin-3-ylthiazol-5-yl)methanone | 1.7 g | C(C)OC=1C=C(C=CC1OC)C1=NN(CCC1)C(=O)C1=C(N=C(S1)C=1C=NC=CC1)C | C23H24N4O3S
